US07696352B2
4-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)benzamide (43)
To a solution of 4-chlorobenzoic acid (40 mg, 0.26 mmol) and triethylamine (0.150 mL, 1.08 mmol) in DMF (2 mL), BOP (135 mg, 0.30 mmol) was added. After 5 min of stirring, 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride (53 mg, 0.18 mmol) was added. The mixture was stirred at room temperature for 2 h. It was then purified by HPLC to give the titled compound (25 mg). MS 405.1 and 407.1 (M+H, Cl pattern).

reactant | 4-chlorobenzoic acid | 0.26 mmol, 40 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | triethylamine | 1.08 mmol, 0.150 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.30 mmol, 135 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride | 0.18 mmol, 53 mg | Cl.NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)benzamide | 25 mg | ClC1=CC=C(C(=O)NCC=2N=CN(C2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)C=C1 | C22H17ClN4O2
